US04870074
Preparation of 2-amino-4-methylamino-5-nitrobenzoic acid
A mixture of 2-acetylamino-4-chloro-5-nitrobenzoic acid (10.0 g) and 40% aqueous methylamine solution (60 ml) is stirred at 80° C. for 10 hours and then evaporated under reduced pressure. To the residue is added 40% aqueous methylamine solution (100 ml), and the resulting solution is stirred at 80° C. for 20 hours. After cooling, the mixture is diluted with water (50 ml) and then adjusted to the pH of about 4 with acetic acid. The precipitate is collected and recrystallized from acetonitrile to give the title compound (7.6 g), mp 260°-272° C.

reactant | 2-acetylamino-4-chloro-5-nitrobenzoic acid | 10.0 g | C(C)(=O)NC1=C(C(=O)O)C=C(C(=C1)Cl)[N+](=O)[O-] | C9H7ClN2O5
reactant | methylamine | 60 ml | CN | CH5N
product | 2-amino-4-methylamino-5-nitrobenzoic acid | 7.6 g | NC1=C(C(=O)O)C=C(C(=C1)NC)[N+](=O)[O-] | C8H9N3O4
